US06489344B1
1. Preparation of 6-chloro-2-methoxy-3-nitro-pyridine
To a suspension of sodium hydride (684 mg, 28.49 mmol) in xylene (100 ml), methanol (0.98 ml, 25.9 mmol) in xylene (30 ml) was added under nitrogen. The mixture was stirred for 20 min. A solution of 2,6-dichloro-3-nitropyridine (5.0 g, 25.9 mmol) in xylene (100 ml) was added to the reaction mixture and stirred at room temperature overnight. Water (50 ml) was added and the organic layer was separated. The organics was washed with water (1×50 ml) and brine (2×50 ml), dried, and concentrated in vacuo. The crude product was purified by flash chromatography (10:1 methylene chloride and acetone) to provide the desired compound, 6-chloro-2-methoxy-3-nitro-pyridine, as the only isomer as light yellow solid (90%).

reactant | sodium hydride | 28.49 mmol, 684 mg | [H-].[Na+]
reactant | methanol | 25.9 mmol, 0.98 ml | CO | CH4O
reactant | 2,6-dichloro-3-nitropyridine | 25.9 mmol, 5.0 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | Water | 50 ml | O | H2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-chloro-2-methoxy-3-nitro-pyridine | ClC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C6H5ClN2O3
